US07253282B2
1 g (ca 2.0 mmol) of crude trans benzyl-cyclopropylmethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amine was dissolved in 50 mL of acetic acid, treated with 300 mg of Pd/C (10%) and hydrogenated overnight at atmospheric pressure under intense stirring. Filtration and evaporation of the solvent gave 775 mg (ca 82%) of crude trans cyclopropylmethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amine as a yellow oil, MS: 434 (M+H)+.

reactant | trans benzyl-cyclopropylmethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amine | ca 2.0 mmol, 1 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)CC1CC1 | C26H39F6NOSi
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | trans cyclopropylmethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amine | 775 mg, ca 82% | C1(CC1)CN[C@@H]1CC[C@H](CC1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC | C19H33F6NOSi
